### PR TITLE
[Merged by Bors] - feat: basic definition of comonoid objects

### PR DESCRIPTION
**Pull request by kim-em**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Monoidal/Comon_.lean [hunk 1]
```diff
@@ -0,0 +1,175 @@
+/-
+Copyright (c) 2023 Scott Morrison. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Scott Morrison
+-/
+import Mathlib.CategoryTheory.Monoidal.Mon_
+import Mathlib.CategoryTheory.Monoidal.Opposite
+
+#align_import category_theory.monoidal.Mon_ from "leanprover-community/mathlib"@"a836c6dba9bd1ee2a0cdc9af0006a596f243031c"
+
```
Comment (semorrison) [inline Mathlib/CategoryTheory/Monoidal/Comon_.lean:10]:
```suggestion
```

File: Mathlib/CategoryTheory/Monoidal/Comon_.lean [hunk 2]
```diff
@@ -0,0 +1,173 @@
+/-
+Copyright (c) 2023 Lean FRO LLC. All rights reserved.
```
Comment (semorrison) [inline Mathlib/CategoryTheory/Monoidal/Comon_.lean:2]:
```suggestion
Copyright (c) 2024 Lean FRO LLC. All rights reserved.
```

File: Mathlib/CategoryTheory/Monoidal/Comon_.lean [hunk 3]
```diff
@@ -0,0 +1,173 @@
...
+structure Comon_ where
+  /-- The underlying object of a comonoid object. -/
+  X : C
+  /-- The counit of a comonoid object. -/
+  counit : X ⟶ 𝟙_ C
+  /-- The comultiplication morphism of a comonoid object. -/
+  comul : X ⟶ X ⊗ X
+  counit_comul : comul ≫ (counit ⊗ 𝟙 X) = (λ_ X).inv := by aesop_cat
+  comul_counit : comul ≫ (𝟙 X ⊗ counit) = (ρ_ X).inv := by aesop_cat
+  comul_assoc : comul ≫ (comul ⊗ 𝟙 X) = comul ≫ (𝟙 X ⊗ comul) ≫ (α_ X X X).inv := by aesop_cat
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Monoidal/Comon_.lean:46]: By symmetry with the new definition of monoid objects, could you use the whiskering operators `▷` and `◁` instead of tensoring the identity?

Comment (semorrison) [reply Mathlib/CategoryTheory/Monoidal/Comon_.lean]: Done.

(And proof repair done by `rw_search`, nice!)

File: Mathlib/CategoryTheory/Monoidal/Comon_.lean [hunk 4]
```diff
@@ -0,0 +1,173 @@
...
+  comul_assoc : comul ≫ (comul ▷ X) = comul ≫ (X ◁ comul) ≫ (α_ X X X).inv := by aesop_cat
+
+attribute [reassoc] Comon_.counit_comul Comon_.comul_counit
+
+-- We prove a more general `@[simp]` lemma below.
+attribute [reassoc (attr := simp)] Comon_.comul_assoc
+
+namespace Comon_
+
+/-- The trivial comonoid object. We later show this is initial in `Comon_ C`.
```
Comment (TwoFX) [inline Mathlib/CategoryTheory/Monoidal/Comon_.lean:55]: Maybe I'm missing something, but I think that you actually show that it is terminal?

File: Mathlib/CategoryTheory/Monoidal/Comon_.lean [hunk 5]
```diff
@@ -0,0 +1,173 @@
...
+
+/-- The forgetful functor from comonoid objects to the ambient category reflects isomorphisms. -/
+instance : ReflectsIsomorphisms (forget C) where
+  reflects f e :=
+    ⟨⟨{ hom := inv f.hom }, by aesop_cat⟩⟩
+
+/-- Construct an isomorphism of monoids by giving an isomorphism between the underlying objects
+and checking compatibility with unit and multiplication only in the forward direction.
+-/
+def isoOfIso {M N : Comon_ C} (f : M.X ≅ N.X) (f_counit : f.hom ≫ N.counit = M.counit)
```
Comment (TwoFX) [inline Mathlib/CategoryTheory/Monoidal/Comon_.lean:144]: We're quite inconstent about the naming of these definitions. In comma categories, they're called `isoMk`, for cones it's called `ext`, etc.

Comment (TwoFX) [inline Mathlib/CategoryTheory/Monoidal/Comon_.lean:144]: This should probaby be `@[simps]`?

File: Mathlib/CategoryTheory/Monoidal/Comon_.lean [hunk 6]
```diff
@@ -0,0 +1,173 @@
...
+  id := id
+  comp f g := comp f g
+
+@[ext] lemma ext {X Y : Comon_ C} {f g : X ⟶ Y} (w : f.hom = g.hom) : f = g := Hom.ext _ _ w
+
+@[simp] theorem id_hom' (M : Comon_ C) : (𝟙 M : Hom M M).hom = 𝟙 M.X := rfl
+
+@[simp]
+theorem comp_hom' {M N K : Comon_ C} (f : M ⟶ N) (g : N ⟶ K) :
+    (f ≫ g : Hom M K).hom = f.hom ≫ g.hom :=
```
Comment (TwoFX) [inline Mathlib/CategoryTheory/Monoidal/Comon_.lean:117]:
```suggestion
    (f ≫ g).hom = f.hom ≫ g.hom :=
```
should be sufficient, unless you added the annotation for a specific reason?

File: Mathlib/CategoryTheory/Monoidal/Comon_.lean [hunk 7]
```diff
@@ -0,0 +1,173 @@
...
+@[simp]
+theorem counit_comul_hom {Z : C} (f : M.X ⟶ Z) : M.comul ≫ (M.counit ⊗ f) = f ≫ (λ_ Z).inv := by
+  rw [leftUnitor_inv_naturality, tensorHom_def, counit_comul_assoc]
+
+@[simp]
+theorem mul_one_hom {Z : C} (f : M.X ⟶ Z) : M.comul ≫ (f ⊗ M.counit) = f ≫ (ρ_ Z).inv := by
+  rw [rightUnitor_inv_naturality, tensorHom_def', comul_counit_assoc]
+
+theorem assoc_flip :
+    M.comul ≫ (𝟙 M.X ⊗ M.comul) = M.comul ≫ (M.comul ⊗ 𝟙 M.X) ≫ (α_ M.X M.X M.X).hom := by simp
```
Comment (TwoFX) [inline Mathlib/CategoryTheory/Monoidal/Comon_.lean:81]: I'm not familiar with the current setup for monoidal categories. It looks to me that neither LHS nor the RHS of this lemma are in simp-normal form due to the simp lemmas `id_tensorHom` and `tensorHom_id`. Should the statement be changed? Why doesn't the simpNF linter complain about this?

File: Mathlib/CategoryTheory/Monoidal/Comon_.lean [hunk 8]
```diff
@@ -0,0 +1,173 @@
...
+* An oplax monoidal functor takes comonoid objects to comonoid objects.
+  That is, a oplax monoidal functor `F : C ⥤ D` induces a functor `Comon_ C ⥤ Comon_ D`.
+* Comonoid objects in `C` are "just"
+  oplax monoidal functors from the trivial monoidal category to `C`.
+* The category of comonoids in a braided monoidal category is monoidal.
+  (It may suffice to transfer this across the equivalent to monoids in the opposite category.)
+
+-/
+
+set_option linter.uppercaseLean3 false
```
Comment (TwoFX) [inline Mathlib/CategoryTheory/Monoidal/Comon_.lean:25]: I assume that this is a copy-paste leftofer from another file that's not needed here?

File: Mathlib/CategoryTheory/Monoidal/Comon_.lean (hunk 7 above)
Comment (semorrison) [reply Mathlib/CategoryTheory/Monoidal/Comon_.lean:81]: `simpNF` doesn't complain because this isn't a simp lemma!

I fixed this to use whiskering.

File: Mathlib/CategoryTheory/Monoidal/Comon_.lean (hunk 6 above)
Comment (semorrison) [reply Mathlib/CategoryTheory/Monoidal/Comon_.lean:115]: Yeah, doesn't seem necessary.

File: Mathlib/CategoryTheory/Monoidal/Comon_.lean (hunk 7 above)
Comment (semorrison) [reply Mathlib/CategoryTheory/Monoidal/Comon_.lean]: I've actually now changed both the associatively lemmas, to absorb associators, and made both simp. Probably this will break the downstream PRs, whose content I've entirely forgotten by now. :-)

**Comment by joelriou** [comment]
Thanks!

bors merge
